US05506089
By the procedure described in Ex. 1, 4-tolualdehyde (12.6 g) and 4-picoline (9.3 g) were reacted to obtain 4-(4-methylstyryl) pyridine.

reactant | 4-tolualdehyde | 12.6 g | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | 4-picoline | 9.3 g | N1=CC=C(C=C1)C | C6H7N
product | 4-(4-methylstyryl) pyridine | CC1=CC=C(C=CC2=CC=NC=C2)C=C1 | C14H13N
